US08278304B2
N-{[4-hydroxy-2-(1H-pyrazol-1-yl)pyrimidin-5-yl]carbonyl}glycine
Tert-butyl N-{[4-hydroxy-2-(1H-pyrazol-1-yl)pyrimidin-5-yl]carbonyl}glycinate (140 mg, 0.44 mmol, prepared in similar fashion to that of the preceding examples) was dissolved in DCM (1 mL) and TFA (1 mL) was added. The reaction was stirred at rt for 4 h, concentrated and partially dissolved in EtOAc and hexane was added to precipitate the desired compound. The product was isolated affording the title compound. HPLC/MS: 264.0 (M+1); Rt=0.65 min.

reactant | Tert-butyl N-{[4-hydroxy-2-(1H-pyrazol-1-yl)pyrimidin-5-yl]carbonyl}glycinate | OC1=NC(=NC=C1C(=O)NCC(=O)OC(C)(C)C)N1N=CC=C1 | C14H17N5O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-{[4-hydroxy-2-(1H-pyrazol-1-yl)pyrimidin-5-yl]carbonyl}glycine | OC1=NC(=NC=C1C(=O)NCC(=O)O)N1N=CC=C1 | C10H9N5O4
